US03954789
EXAMPLE 52: 1-Methyl-2-nitro-5-(1,2-dihydroxyethyl)-imidazole
To a solution of 6.2 g. of 1-methyl-2-nitro-5-vinylimidazole in 570 ml. of ethanol cooled to about -10° C., a solution of 5.46 g. of KMnO4 and 8.85 g. of MgSO4 .7H2O in 750 ml. of H2O is added with stirring. The reaction mixture is filtered through Celite and washed with ethanol. The filtrate is concentrated to dryness under vacuum at 50° C., and the residue is taken up with acetone. The resulting solution is filtered and concentrated to dryness under vacuum. The resulting solid is crystallized from methyl ethyl ketone. Yield 3.15 g. (41.6%), m.p. 119°-121° C.

reactant | 1-methyl-2-nitro-5-vinylimidazole | CN1C(=NC=C1C=C)[N+](=O)[O-] | C6H7N3O2
reactant | ethanol | C(C)O | C2H6O
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | H2O | O | H2O
product | 1-Methyl-2-nitro-5-(1,2-dihydroxyethyl)-imidazole | CN1C(=NC=C1C(CO)O)[N+](=O)[O-] | C6H9N3O4
